US06204293B1
4-chloromethyl-2-phenylbenzoic acid methyl ester
A solution of thionyl chloride (10.0 g, 84.0 mmol) in DMF (10 mL) was added dropwise to a solution of 4-hydroxymethyl-2-phenylbenzoic acid, methyl ester (12.1 g, 50 mmol), prepared as in Example 158C, and LiCl (2.33 g, 55.0 mmol) in DMF (40 mL). After 1 hour, the reaction mixture was poured into H2O and the resulting mixture was extracted with ether (3×). The combined organic extracts were rinsed with H2O (2×), saturated aqueous NaHCO3 (3×) and brine, dried (MgSO4) and concentrated under reduced pressure to provide the desired compound (10.8 g, 83%) as a clear, colorless oil.

reactant | thionyl chloride | 84.0 mmol, 10.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethyl-2-phenylbenzoic acid, methyl ester | 50 mmol, 12.1 g | OCC1=CC(=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C15H14O3
reactant | LiCl | 55.0 mmol, 2.33 g | [Li+].[Cl-]
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-chloromethyl-2-phenylbenzoic acid methyl ester | 10.8 g, 83% | COC(C1=C(C=C(C=C1)CCl)C1=CC=CC=C1)=O | C15H13ClO2
